US07381719B2
1,2,3,4-Tetrahydro-isoquinolin-8-ol
Combine 8-methoxy-tetrahydroisoquinoline (665.7 mg, 4.08 mmol) and 48% HBr at room temperature. Reflux the reaction for 3 hours and then cool to room temperature. Recrystallize the product from EtOH and diethyl ether to afford 754.2 mg, 3.28 mmol (80% yield) of the title compound as a tannish white solid: 1H NMR (500 MHz, DMSO-d6); 2.9 (2H, t, J=6.16, 5.86 Hz), 3.2-3.4 (2H, m), 4.0 (2H, s), 6.6-6.8 (2H, m), 7.0-7.1 (1H, m), 8.8-9.1 (2H, br m), 9.9 (1H, s); MS m/z 148 (M−1).

reactant | 8-methoxy-tetrahydroisoquinoline | 4.08 mmol, 665.7 mg | COC=1C=CC=C2CCNCC12 | C10H13NO
reactant | HBr | Br | BrH
product | 1,2,3,4-Tetrahydro-isoquinolin-8-ol | 3.28 mmol, 754.2 mg, 80% yield | C1NCCC2=CC=CC(=C12)O | C9H11NO
